US06159979
N-[4-Methoxy-3-(4-methylpiperazin-1-yl)phenyl]-N'-[5-phenylnaphth-1-yl]urea
The title compound was prepared from N-[5-bromonaphth-1-yl]-N'-[4-methoxy-3-(4-methylpiperazin-1-yl)phenyl]urea (E19) and phenylboronic acid using a similar procedure to Example 4 (47%).

reactant | N-[5-bromonaphth-1-yl]-N'-[4-methoxy-3-(4-methylpiperazin-1-yl)phenyl]urea | BrC1=C2C=CC=C(C2=CC=C1)NC(=O)NC1=CC(=C(C=C1)OC)N1CCN(CC1)C | C23H25BrN4O2
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | N-[4-Methoxy-3-(4-methylpiperazin-1-yl)phenyl]-N'-[5-phenylnaphth-1-yl]urea | COC1=C(C=C(C=C1)NC(=O)NC1=CC=CC2=C(C=CC=C12)C1=CC=CC=C1)N1CCN(CC1)C | C29H30N4O2
